US05929067
(h) 5-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid
A solution of 108 mg (1.93 mmol) of potassium hydroxide in 1 ml of water is added at room temperature to a solution of 970 mg (1.84 mmol) of 5-[(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid ethyl ester in 10 ml of tetrahydrofuran. The mixture is stirred at room temperature for 18 hours and then 10 ml of water and 20 ml of diethyl ether are added. The aqueous phase is separated off and rendered acidic with 6N hydrochloric acid. Ethyl acetate is then added and the product is extracted. The combined organic phases are washed with brine, dried over magnesium sulfate and concentrated by evaporation. The title compound crystallises out from diethyl ether/hexane in the form of white crystals. M.p.: 152-157° C.; MS (EI): 500 (M+.), 370, 241, 229,130; TLC: (ethyl acetate/acetic acid 99:1) Rf =0.49.

reactant | potassium hydroxide | 1.93 mmol, 108 mg | [OH-].[K+]
reactant | 5-[(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid ethyl ester | 1.84 mmol, 970 mg | C(C)OC(CCCC(CC1=CNC2=CC=CC=C12)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C26H26F6N2O3
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 5-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-6-(1H-indol-3-yl)-hexanoic acid | FC(C=1C=C(C(=O)N(C)C(CCCC(=O)O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C24H22F6N2O3
